US06248775B1
Part A: Prepartion of Ethyl 6-Aminonicotinate
To a suspension of 1.3 g (9.4 mmol) 6-aminonicotinic acid in 100 mL of ethanol, was bubbled in dry hydrochloric acid at 0° C., then the solution was refluxed until all the solids dissolved. The solvents were removed under reduced pressure, the residue dissolved in ethyl acetate, washed with saturated sodium bicarbonate, brine and concentrated to afford 1.37 g of a white solid, m/e=166(M+H).

reactant | 6-aminonicotinic acid | 9.4 mmol, 1.3 g | NC1=NC=C(C(=O)O)C=C1 | C6H6N2O2
reactant | ethanol | 100 mL | C(C)O | C2H6O
product | Ethyl 6-Aminonicotinate | 1.37 g | NC1=NC=C(C(=O)OCC)C=C1 | C8H10N2O2
